US07544215B2
Step 3: Preparation of 3-{2-[ethyl-4-(6-nitro-1,3-diketo-1H-benzo[de]isoquinolin-2-(3H)-yl)anilino]ethyl}-1-methyl-1H-imidazol-3-ium bromide
0.5 g (1.07 mmol) of 2-{4-[(2-bromoethyl)(ethyl)amino]phenyl}-6-nitro-1H-benzo[de]isoquinolin-1,3-(2H)-dione was dissolved in 40 mL of acetonitrile. After the addition of 0.44 g (5.35 mmol) of N-methylimidazole, the mixture was stirred for 2 hours at reflux. Following removal of the solvent under vacuum, the precipitate was filtered off, washed with ethyl acetate and dried. Yield: 0.32 g (54% of the theoretical), red-brown powder. UV/Vis (DMSO): λmax: 409, 520 nm

reactant | 2-{4-[(2-bromoethyl)(ethyl)amino]phenyl}-6-nitro-1H-benzo[de]isoquinolin-1,3-(2H)-dione | 1.07 mmol, 0.5 g | BrCCN(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CC | C22H18BrN3O4
reactant | N-methylimidazole | 5.35 mmol, 0.44 g | CN1C=NC=C1 | C4H6N2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 3-{2-[ethyl-4-(6-nitro-1,3-diketo-1H-benzo[de]isoquinolin-2-(3H)-yl)anilino]ethyl}-1-methyl-1H-imidazol-3-ium bromide | [Br-].C(C)N(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CC[N+]3=CN(C=C3)C | InChI=1S/C26H24N5O4.BrH/c1-3-29(16-15-28-14-13-27(2)17-28)18-7-9-19(10-8-18)30-25(32)21-6-4-5-20-23(31(34)35)12-11-22(24(20)21)26(30)33;/h4-14,17H,3,15-16H2,1-2H3;1H/q+1;/p-1
